US09382288B2
16β-Azido-3-methoxy-estra-1,3,5(10)-triene
A stirred solution of 1.56 g (4.5 mmol) 16α-bromo-3-methoxy-estra-1,3,5(10)-triene and 0.67 g (13.7 mmol) lithium azide in 30 ml of DMSO is heated for 1 h to 80° C. After cooling, water is added dropwise and the resulting precipitate is collected by filtration, washed with water and dried under vacuum. 1.33 g (96%). F=80-85° C., after recrystallization from ether/methanol: F=84-87° C. [α]D+60° (c=10.2).

reactant | 16α-bromo-3-methoxy-estra-1,3,5(10)-triene | 4.5 mmol, 1.56 g | Br[C@H]1C[C@]2(C)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC | C19H25BrO
reactant | lithium azide | 13.7 mmol, 0.67 g | [N-]=[N+]=[N-].[Li+]
reactant | water | O | H2O
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | 16β-Azido-3-methoxy-estra-1,3,5(10)-triene | N(=[N+]=[N-])[C@@H]1C[C@]2(C)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC | C19H25N3O
